US06197826B1
Synthesis of α-(2-Hydroxy-4-methoxyphenyl)-N-tert-butylnitrone
The title compound was prepared according to the procedure described in Example 1 using 2-hydroxy-4-methoxybenzaldehyde and N-tert-butylhydroxylamine. The title compound was isolated in 72.9% yield as a pale yellow crystalline solid, m.p. 115.2-116.0° C. (Rf=0.49 on a silica gel plate using 1:1 EtOAc/hexanes as an eluant).

reactant | 2-hydroxy-4-methoxybenzaldehyde | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
product | α-(2-Hydroxy-4-methoxyphenyl)-N-tert-butylnitrone | OC1=C(C=CC(=C1)OC)C=[N+]([O-])C(C)(C)C | C12H17NO3
